US04337341
Following the procedure set out in Example 47, 1-methyl-4-(3-methoxyphenyl)-1,2,3,6-tetrahydropyridine was reacted with 3-chloropropylbromide and sodium iodide to afford 4a-(3-methoxyphenyl)-2-methyl-3,4,4a,5,6,7-hexahydro-2-pyrindine. B.P. 132°-134° C. at 0.1 torr.

reactant | 1-methyl-4-(3-methoxyphenyl)-1,2,3,6-tetrahydropyridine | CN1CCC(=CC1)C1=CC(=CC=C1)OC | C13H17NO
reactant | 3-chloropropylbromide | ClCCCBr | C3H6BrCl
reactant | sodium iodide | [I-].[Na+]
product | 4a-(3-methoxyphenyl)-2-methyl-3,4,4a,5,6,7-hexahydro-2-pyrindine | COC=1C=C(C=CC1)C12CCN(C=C2CCC1)C | C16H21NO
